US07906645B2
(3R)—N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-3-methylpiperazine-1-carboxamide
To a solution of tert-butyl (3R)-3-methylpiperazine-1-carboxylate (84 mg) and (1-ethylpiperidin-3-yl)methyl 4-methylbenzenesulfonate (150 mg) in acetonitrile (3 mL) was added potassium carbonate (233 mg). The mixture was heated to 100° C. in the microwave for 2 hours and then evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in dichloromethane. To a solution of the isolated material (50 mg) in methanol (5 mL) was added 4M HCl in dioxane (0.5 mL). The mixture was stirred overnight at room temperature and then evaporated to give a colourless oil. To a mixture of this oil in dichloromethane (10 mL) was added di-iso-propylethylamine (0.11 mL) and 3,4-dichlorophenylisocyanate (35 mg). The mixture was stirred for 15 minutes and then evaporated. The residue was purified using reverse phase HPLC eluting with a mixture of 5-95% acetonitrile in water to give the title compound as a white foam (52 mg, 30%).

reactant | tert-butyl (3R)-3-methylpiperazine-1-carboxylate | 84 mg | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | (1-ethylpiperidin-3-yl)methyl 4-methylbenzenesulfonate | 150 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1CN(CCC1)CC | C15H23NO3S
reactant | potassium carbonate | 233 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-iso-propylethylamine | 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4-dichlorophenylisocyanate | 35 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3R)—N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-3-methylpiperazine-1-carboxamide | 52 mg, 30% | ClC=1C=C(C=CC1Cl)NC(=O)N1C[C@H](N(CC1)CC1CN(CCC1)CC)C | C20H30Cl2N4O
